US08729078B2
A round bottom flask containing 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-formylphenyl)-1H-indole-3 carbonitrile (12 mg, 0.03 mmol) was taken up in 10% water/tetrahydrofuran (1.5 ml). Next hydrido(dimethylphosphinousacid-kp)[hydrogen bis-(dimethylphosphinito-kp)]platinum(II) catalyst (2 mg, 0.005 mmol) was added and the mixture was heated to reflux (oil bath). After 1 hour the mixture was cooled to ambient and the volatiles stripped (rotary evaporator) to provide a crude product. This reaction (as described above—but using 10% H2O/ethanol as solvent) was repeated on a 61 mg scale (0.24 mmol) and worked up as described. The combined crude material from the 2 reactions was purified by preparative thin layer chromatography (3 plates, eluting with 5% MeOH/CH2Cl2 and then re-developing again with 5% MeOH/CH2Cl2). The product band was collected to provide 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-formylphenyl)-1H-indole-3-carboxamide as a light yellow solid (51 mg). LC/MS calcd for C28H23FN4O3 (m/e) 482.52, obsd 483.0 (M+H, ES+): 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 1.40 (s, 9H) 6.03 (br. s, 2H) 7.20-7.36 (m, 3H) 7.44-7.59 (m, 3H) 7.66 (d, J=7.93 Hz, 1H) 7.81 (t, J=7.60 Hz, 1H) 7.91 (s, 1H) 8.19 (m, 1H) 8.23 (d, J=2.64 Hz, 1H) 9.52 (s, 1H)

reactant | 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-formylphenyl)-1H-indole-3 carbonitrile | 0.03 mmol, 12 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1C=C(C2=CC=CC=C12)C#N)C=O | C28H21FN4O2
reactant | H2O ethanol | O.C(C)O
solvent | water tetrahydrofuran | 1.5 ml | O.O1CCCC1
product | 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-formylphenyl)-1H-indole-3-carboxamide | 51 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1C=C(C2=CC=CC=C12)C(=O)N)C=O | C28H23FN4O3
